US08835428B2
Step 3: (E)-4-(benzyloxy)-N-hydroxybenzimidoyl chloride
To (Z)-4-(benzyloxy)benzaldehyde oxime (11.3 g) in N,N′-Dimethyl formamide (57 ml), N-Chlorosuccinimide (7.98 g) was added and the reaction mixture was stirred for 3 hours and then solvent was evaporated to dark brown residue. To this residue water was added and extracted with Ethyl acetate. Organic layer was collected and dried over Na2SO4 and concentrated to obtain pale brown solid, which was crystallized from DCM-Petroleum ether to obtain the title compound as white solid. Yield: 7.9 g (60%); 1HNMR (DMSO-d6; 300 MHz): δ 12.17 (s, 1H), 7.73 (d, 2H), 7.33-7.47 (m, 5H), 7.11 (d, 2H) 5.16 (s, 2H).

reactant | (Z)-4-(benzyloxy)benzaldehyde oxime | 11.3 g | C(C1=CC=CC=C1)OC1=CC=C(\C=N/O)C=C1 | C14H13NO2
reactant | N-Chlorosuccinimide | 7.98 g | ClN1C(CCC1=O)=O | C4H4ClNO2
product | (E)-4-(benzyloxy)-N-hydroxybenzimidoyl chloride | C(C1=CC=CC=C1)OC1=CC=C(/C(=N\O)/Cl)C=C1 | C14H12ClNO2
